US06528677B1
4.9 g of carbon tetrabromide were dissolved in 75 ml of methylene chloride and treated dropwise with a solution of 7.7 g of triphenylphosphine in 80 ml of methylene chloride at a temperature of −20° C. The slightly orange solution was stirred at 0° C. for 15 minutes, then treated with a solution of 2 g of 4,4,7,7-tetramethyl-2-pentyl-2,3,4,5,6,7-hexahydro-1H-indene-2-carbaldehyde in 20 ml of methylene chloride. The reaction mixture was stirred at room temperature for 2 hours, then poured on ice/water and diluted aqueous sodium bicarbonate solution and extracted with methylene chloride. The yellow oil which was received after drying of the organic phase and evaporation of the solvent, was further purified with flash chromatography (silica gel, hexane/ethyl acetate=20:1) to give 2-(2,2-dibromo-vinyl)-4,4,7,7-tetramethyl-2-pentyl-2,3,4,5,6,7-hexahydro-1H-indene as a slightly yellow oil.

reactant | carbon tetrabromide | 4.9 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 7.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4,4,7,7-tetramethyl-2-pentyl-2,3,4,5,6,7-hexahydro-1H-indene-2-carbaldehyde | 2 g | CC1(C=2CC(CC2C(CC1)(C)C)(C=O)CCCCC)C | C19H32O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-(2,2-dibromo-vinyl)-4,4,7,7-tetramethyl-2-pentyl-2,3,4,5,6,7-hexahydro-1H-indene | BrC(=CC1(CC=2C(CCC(C2C1)(C)C)(C)C)CCCCC)Br | C20H32Br2
